US04638067
A suspension of 0.81 g (3.0 mmole) of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, 1.0 g (6.0 mmole) of 1,1-dimethylethyl-(3-azetidinyl)carbamate, 1.0 g (10 mmole) triethylamine and 50 ml of acetonitrile was heated at reflux 35 for four hours. The solvent was removed in vacuo and the residue was dissolved in 10 ml of trifluoroacetic acid. The solution was stirred at room temperature for one hour, the solvent was removed in vacuo and the residue dissolved in water. The turbid solution was clarified by filtration and the filtrate adjusted to pH 7.3 with 1.0 N sodium hydroxide. The resulting precipitate was removed by filtration, washed successively with water, ethanol and ether. Drying in vacuo gave 0.2 g of 7-(3-amino-1-azetidinyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, mp 260°-262° C.

reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 3.0 mmole, 0.81 g | ClC1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C11H8ClFN2O3
reactant | 1,1-dimethylethyl-(3-azetidinyl)carbamate | 6.0 mmole, 1.0 g | CC(C)(C)N(C([O-])=O)C1CNC1
reactant | triethylamine | 10 mmole, 1.0 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 7-(3-amino-1-azetidinyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 0.2 g | NC1CN(C1)C1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C14H15FN4O3
